US04886805
A solution of 200 g of 2-chloro-3-trifluoromethylpyridine in 500 ml of ethanol and 300 ml of hydrazine hydrate is heated under reflux for 6 hours. The solution is then concentrated in vacuo and, after cooling, the crystalline residue is then taken up with water, filtered off, washed with water and dried to give 145 g of 3-trifluoromethyl-2-hydrazinopyridine in the form of crystals melting at 72° C.

reactant | 2-chloro-3-trifluoromethylpyridine | 200 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | hydrazine hydrate | 300 ml | O.NN
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-trifluoromethyl-2-hydrazinopyridine | 145 g | FC(C=1C(=NC=CC1)NN)(F)F | C6H6F3N3
